US06326375B1
(3) Preparation of Phenyl N-[5-(3-hydroxyphenyl)-2-pyrazinyl]carbamate
To a solution of 2-amino-5-(3-hydroxyphenyl)pyrazine (89 mg) in pyridine (10 mL) was added under ice-cooling phenyl chloroformate (63 μL). The mixture was stirred for 1 hour and then poured into water (30 mL) and extracted with ethyl acetate (20 mL×3). The extract was washed with saturated saline solution and then dried over anhydrous Na2SO4. The concentration of the solvent left a crystal residue, which was washed with ethyl ether (10 mL) to give the subject compound (51 mg).

reactant | 2-amino-5-(3-hydroxyphenyl)pyrazine | 89 mg | NC1=NC=C(N=C1)C1=CC(=CC=C1)O | C10H9N3O
reactant | phenyl chloroformate | 63 μL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | water | 30 mL | O | H2O
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | Phenyl N-[5-(3-hydroxyphenyl)-2-pyrazinyl]carbamate | 51 mg | OC=1C=C(C=CC1)C=1N=CC(=NC1)NC(OC1=CC=CC=C1)=O | C17H13N3O3
